US09255110B2
A mixture of 3-amino-4-methyl-thiophene-2-carboxylic acid methyl ester (3.0 g) and formamide (50 mL) was heated to 150° C. overnight. The reaction mixture was then cooled and diluted with water. The solid formed was collected by filtration, washed with water and dried under reduced pressure to give 2.1 g of 7-methyl-3H-thieno[3,2-d]pyrimidin-4-one without further purifications.

reactant | 3-amino-4-methyl-thiophene-2-carboxylic acid methyl ester | 3.0 g | COC(=O)C=1SC=C(C1N)C | C7H9NO2S
reactant | formamide | 50 mL | C(=O)N | CH3NO
solvent | water | O | H2O
product | 7-methyl-3H-thieno[3,2-d]pyrimidin-4-one | 2.1 g | CC1=CSC2=C1N=CNC2=O | C7H6N2OS
